US09351965B2
Preparation of 1-tert-Butyl 3-methyl 3-(2-fluorobenzyl)piperidine-1,3-dicarboxylate
In a flask, lithium bis(trimethylsilyl)amide (LHMDS) (9.24 mL of 1.0 M solution in THF, 9.24 mmol) was added to tetrahydrofuran (20 mL). The reaction mixture was cooled to −78° C., and then a solution of 1-tert-butyl 3-methyl piperidine-1,3-dicarboxylate (1.5 g, 6.17 mmol) in tetrahydrofuran (5 mL) was added drop-wise to the reaction mixture at −78° C. The reaction was stirred at −78° C. for 30 minutes. Afterwards, 2-fluorobenzylbromide (1.12 mL, 9.24 mmol) was added, and the reaction was stirred for an additional 3 hours at 0° C. Upon reaction completion, the reaction was quenched with saturated ammonium chloride solution (50 mL) and extracted three times with ethyl acetate (50 mL). The organic layers were combined, dried with sodium sulfate, and concentrated to yield crude product. The crude product was purified using flash chromatography (0-60% ethyl acetate in hexane) to give the titled compound (1.41 g).

reactant | lithium bis(trimethylsilyl)amide | 9.24 mmol, 1.0 M, 9.24 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-tert-butyl 3-methyl piperidine-1,3-dicarboxylate | 6.17 mmol, 1.5 g | N1(CC(CCC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
reactant | 2-fluorobenzylbromide | 9.24 mmol, 1.12 mL | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-tert-Butyl 3-methyl 3-(2-fluorobenzyl)piperidine-1,3-dicarboxylate | 1.41 g | FC1=C(CC2(CN(CCC2)C(=O)OC(C)(C)C)C(=O)OC)C=CC=C1 | C19H26FNO4
